US08461328B2
A mixture of (1R,3R)-3-tert-butoxycarbonylamino-cyclopentanecarboxylic acid (1.00 g, 4.36 mmol), diphenylphosphoryl azide (1.41 mL, 6.54 mmol) and triethylamine (1.21 mL, 8.72 mmol) in toluene (15 mL) was heated at 90° C. for 2 hours then cooled to ambient temperature. Allyl alcohol (1.63 mL, 24.0 mmol) and DMAP (54.0 mg, 0.44 mmol) were added and the resulting mixture heated at 90° C. for 18 hours. The cooled reaction mixture was concentrated under vacuum and the resulting residue was dissolved in ethyl acetate. The mixture was washed with 10% aqueous citric acid, saturated aqueous sodium carbonate and brine and the combined aqueous layers were back-extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated under vacuum. The resulting residue was purified by column chromatography on silica gel (gradient: 0 to 12% ethyl acetate in cyclohexane) to afford 890 mg (72%) of ((1R,3R)-3-allyloxycarbonylamino-cyclopentyl)-carbamic acid tert-butyl ester. 1H NMR (400 MHz, DMSO) δ: 7.23 (d, 1H), 6.85 (d, 1H), 5.90 (m, 1H), 5.26 (dq, 1H), 5.16 (dq, 1H), 4.46-4.41 (m, 2H), 3.93-3.83 (m, 2H), 1.88 (m, 2H), 1.65 (t, 2H), 1.37 (s, 9H).

reactant | (1R,3R)-3-tert-butoxycarbonylamino-cyclopentanecarboxylic acid | 4.36 mmol, 1.00 g | C(C)(C)(C)OC(=O)N[C@H]1C[C@@H](CC1)C(=O)O | C11H19NO4
reactant | diphenylphosphoryl azide | 6.54 mmol, 1.41 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 8.72 mmol, 1.21 mL | C(C)N(CC)CC | C6H15N
reactant | Allyl alcohol | 24.0 mmol, 1.63 mL | C(C=C)O | C3H6O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | 0.44 mmol, 54.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | ((1R,3R)-3-allyloxycarbonylamino-cyclopentyl)-carbamic acid tert-butyl ester | 890 mg, 72% | C(C)(C)(C)OC(N[C@H]1C[C@@H](CC1)NC(=O)OCC=C)=O | C14H24N2O4
